US07875640B2
5-tert-butyl-3-propylthiazol-2(3H)-imine
A mixture of 3,3-dimethylbutanal (5 mL, 40 mmol), propan-1-amine (3.0 mL, 36 mmol), and 4 g of 4 Å molecular sieves (8-12 mesh beads) in acetonitrile (40 mL) was stirred at ambient temperature for 16 h. The material was filtered through Celite® with acetonitrile (additional 25 mL) then potassium thiocyanate (4.7 g, 48 mmol) was added and the mixture was warmed to 50° C. Iodine (18 g, 72 mmol) was added and the mixture was stirred at 50° C. for 16 h then was cooled to ambient temperature. The mixture was then stirred with 75 mL of 20% aqueous sodium metabisulfite for 1 h. The layers were separated and the aqueous layer was extracted with 3×10 mL CH2Cl2. The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give the title compound (7.1 g, 36 mmol, 99% yield) which was carried on without further purification. MS (DCI/NH3) m/z 199 (M+H)+.

reactant | 3,3-dimethylbutanal | 40 mmol, 5 mL | CC(CC=O)(C)C | C6H12O
reactant | propan-1-amine | 36 mmol, 3.0 mL | C(CC)N | C3H9N
reactant | potassium thiocyanate | 48 mmol, 4.7 g | [S-]C#N.[K+]
reactant | Iodine | 72 mmol, 18 g | II | I2
reactant | sodium metabisulfite | 75 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 5-tert-butyl-3-propylthiazol-2(3H)-imine | 36 mmol, 7.1 g, 99% yield | C(C)(C)(C)C1=CN(C(S1)=N)CCC | C10H18N2S
